US08486952B2
N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-(5-isopropyl-2-methylphenyl)-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine
To a solution of 2-chloro-N-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (Preparation Gp) (26.0 mg, 100 μmol) in Dioxane (Ratio: 1, Volume: 175 μl) was added 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (Preparation A) (22.37 mg, 100 μmol) and AcOH (Ratio: 1.000, Volume: 175 μl). The resulting mixture was brought to 100° C. and stirred overnight. The reaction mixture was brought to pH 10 by the addition of 1 N aqueous NaOH. The resulting mixture was extracted with EtOAc (3×4 mL). The combined organic extracts were washed with brine (4 mL), dried over MgSO4, filtered and concentrated in vacuo. The product was purified by Prep HPLC to yield the title compound. LC-MS (M+H)+=565.2.

reactant | 2-chloro-N-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 100 μmol, 26.0 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC | C14H14ClN3
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
reactant | AcOH | 175 μl | CC(=O)O | C2H4O2
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | Dioxane | 175 μl | O1CCOCC1 | C4H8O2
product | N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-(5-isopropyl-2-methylphenyl)-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC2=C(C=CC(=C2)C(C)C)C)OC | C33H33ClN6O
